US06426333B1
Transcutol .
Five male european cats were treated with the spot-on formulation at a dose 0. 1 ml.kg−1 (i.e. 250 μg.kg−1 of ivermectin and 10 mg.kg−1 of fipronil).

reactant | ivermectin | CC[C@H](C)[C@@H]1[C@H](CC[C@@]2(O1)C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@H]([C@@H](O7)C)O)OC)OC)\C)C.C[C@H]1CC[C@]2(C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@H]([C@@H](O7)C)O)OC)OC)\C)O[C@@H]1C(C)C
reactant | fipronil | C=1C(=CC(=C(C1Cl)N2C(=C(C(=N2)C#N)[S+](C(F)(F)F)[O-])N)Cl)C(F)(F)F | C12H4Cl2F6N4OS
product | Transcutol | CCOCCOCCO | C6H14O3
